US07858784B2
Synthesis of N-(4-ethoxyphenyl)-2,5-dimethylaniline (FIG. 12, Table 8, Entry 7)
Following general procedure E, a mixture of 2-chloro-p-xylene (134 μL, 1.0 mmol), 4-ethoxyaniline (154 μL, 1.2 mmol), NaOt-Bu (115 mg, 1.2 mmol), 10 (0.08 mg, 0.01 mol %), 1 (0.05 mg, 0.01 mol %), and Bu2O (1 mL) was heated to 110° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a white solid (235 mg, 98%), mp 56-58° C. 1H NMR (300 MHz, CDCl3) δ: 7.10 (m, 3H), 6.95 (m, 3H), 6.72 (d, J=7.5 Hz, 1H), 5.26 (s, 1H), 4.09 (q, J=7.0 Hz, 2H), 2.33 (s, 3H), 2.29 (s, 3H), 1.51 (t, J=7.0 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 154.7, 143.5, 136.8, 136.5, 130.9, 122.5, 121.0, 116.1, 116.1, 115.6, 64.1, 21.6, 17.7, 15.3 ppm. IR (neat, cm−1): 3402, 2978, 2923, 1511, 1478, 1292, 1238, 1117, 1049, 798. Anal. Calcd. for C16H19NO: C, 79.63; H, 7.94. Found: C, 79.70; H, 8.01.

reactant | 2-chloro-p-xylene | 1.0 mmol, 134 μL | ClC1=C(C=CC(=C1)C)C | C8H9Cl
reactant | 4-ethoxyaniline | 1.2 mmol, 154 μL | C(C)OC1=CC=C(N)C=C1 | C8H11NO
reactant | NaOt-Bu | 1.2 mmol, 115 mg | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 1 mL | O(CCCC)CCCC | C8H18O
product | N-(4-ethoxyphenyl)-2,5-dimethylaniline | 235 mg, 98% | C(C)OC1=CC=C(C=C1)NC1=C(C=CC(=C1)C)C | C16H19NO
